US07247748B2
c) 4-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-benzoic acid methyl ester
To a solution of N-(2,2-diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine (0.60 g, 1.33 mmol) in toluene (4 ml) at ambient temperature was added 4-hydroxy-benzoic acid methyl ester (0.22 g, 1.45 mmol) under Argon with stirring. The mixture was treated with polymer bound PPh3 (0.71 g, 2.13 mmol). After 15 minutes of stirring the mixture was treated with DIAD (0.32 mL, 1.66 mmol) and was stirred at room temperature overnight. The reaction mixture was filtered, and concentrated in-vacuo. The resulting oil was dissolved in DMSO and was purified via preparative reverse-phase HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile:H2O, UV detection at 254 nm) to yield the title compound, 0.24 g (32%); MS (ESI) m/e 583 [M+H]+.

reactant | N-(2,2-diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | 1.33 mmol, 0.60 g | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
reactant | 4-hydroxy-benzoic acid methyl ester | 1.45 mmol, 0.22 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | PPh3 | 2.13 mmol, 0.71 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.66 mmol, 0.32 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C33H31ClF3NO3
